US07659279B2
tert-Butyl (2R)-2-[({7-(benzyloxy)-4-[3-chloro-4-fluoroanilino]quinazolin-5-yl}oxy)methyl]pyrrolidine-1-carboxylate (1.5 g) was taken up in trifluoroacetic acid (15 ml) and the solution was heated at 70° C. for 18 hours. The solution was cooled to room temperature and then concentrated in vacuo to leave a brown residue. Saturated aqueous sodium hydrogen carbonate was added to the residue and the aqueous mixture was extracted with ethyl acetate. The layers were separated and the organic layer was dried (MgSO4) and concentrated in vacuo to leave a brown oil. Purification by flash chromatography, using 5:1:84 methanol:7N ammonia in methanol:DCM→20:1:79 methanol:7N ammonia in methanol:DCM as eluent, followed by trituration with ether gave 4-[3-chloro-4-fluoro-anilino]-5-[(2R)-pyrrolidin-2-ylmethoxy]quinazolin-7-ol as an off-white solid (200 mg, 20%); NMR Spectrum (DMSO-d6) 10.40 (brs, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.95 (m, 1H), 7.40 (m, 1H), 6.75 (m, 2H), 4.30 (m, 1H), 4.05 (m, 1H), 3.60-3.50 (m, 1H), 3.0-2.80 (m, 2H), 1.95-1.80 (m, 1H), 1.75-1.65 (m, 2H), 1.50-1.40 (m, 1H); Mass spectrum MH+ 391.

reactant | tert-Butyl (2R)-2-[({7-(benzyloxy)-4-[3-chloro-4-fluoroanilino]quinazolin-5-yl}oxy)methyl]pyrrolidine-1-carboxylate | 1.5 g | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)F)Cl)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C31H32ClFN4O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[3-chloro-4-fluoro-anilino]-5-[(2R)-pyrrolidin-2-ylmethoxy]quinazolin-7-ol | 200 mg, 20% | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2NCCC2)O)C=CC1F | C19H18ClFN4O2
